US06680328B2
2-Bromo-6-methoxynaphthalene
Sodium hydride (60%, 4.5 g, 112 mmol) was added in small portions to a mixture of 6-bromo-2-naphthol (25.0 g, 112 mmol), iodomethane (11.8 g, 168 mmol) and dimethylsulfoxide (150 ml). The mixture was stirred at room temperature overnight. Sodium hydroxide (200 ml, 1 M) was added, and the mixture was filtered. Yield 25.1 g, 95%. Mp 76-82° C.

reactant | Sodium hydride | 112 mmol, 4.5 g | [H-].[Na+]
reactant | 6-bromo-2-naphthol | 112 mmol, 25.0 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | iodomethane | 168 mmol, 11.8 g | IC | CH3I
reactant | Sodium hydroxide | 1 M, 200 ml | [OH-].[Na+]
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 2-Bromo-6-methoxynaphthalene | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
